US08048909B2
N-Methyl-1-(1-{[3-(methylsulfonyl)phenyl]sulfonyl}-5-phenyl-1H-pyrrol-3-yl)methanamine hydrochloride
1-{[3-(Methylsulfonyl)phenyl]sulfonyl}-5-phenyl-1H-pyrrole-3-carbaldehyde (160 mg) was dissolved in methanol (20 mL), 40% methylamine methanol solution (160 mg) was added at room temperature, and the mixture was stirred for 30 min. Sodium borohydride (32 mg) was added at room temperature, and the mixture was stirred for 10 min. 1 mol/L Hydrochloric acid (20 mL) was added, and the mixture was stirred for 5 min. The reaction mixture was alkalized with a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in methanol (5 mL), a 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added, and the mixture was concentrated under reduced pressure. The residue was crystallized from tetrahydrofuran to give the title compound as colorless crystals (yield 150 mg, 83%).

reactant | 1-{[3-(Methylsulfonyl)phenyl]sulfonyl}-5-phenyl-1H-pyrrole-3-carbaldehyde | 160 mg | CS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O | C18H15NO5S2
reactant | methylamine methanol | 160 mg | CO.CN
reactant | Sodium borohydride | 32 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 1 mol/L, 20 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | N-Methyl-1-(1-{[3-(methylsulfonyl)phenyl]sulfonyl}-5-phenyl-1H-pyrrol-3-yl)methanamine hydrochloride | yield 150 mg, 83% | Cl.CNCC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)C | InChI=1S/C19H20N2O4S2.ClH/c1-20-13-15-11-19(16-7-4-3-5-8-16)21(14-15)27(24,25)18-10-6-9-17(12-18)26(2,22)23;/h3-12,14,20H,13H2,1-2H3;1H
